US07423159B2
Sodium hydride (60% in oil, 60 mg) was added to a mixture of 4-(4-fluorophenyl)-1-methyl-1H-pyrazole-5-carbaldehyde (168 mg), ethyl diethylphosphonoacetate (400 mg) and N,N-dimethylformamide (3 ml) at 0° C. and the mixture was stirred at room temperature for 15 min. The reaction mixture was poured into a 1N aqueous hydrochloric acid solution and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated and the residue was dissolved in a mixture of 6N hydrochloric acid (18 ml) and acetic acid (2 ml). The mixture was stirred for 1 hr. with heating under reflux. The reaction mixture was concentrated and poured into water. 1N Sodium hydroxide was added for neutralization. The precipitated solids were collected by filtration, washed with water, and dried to give (2E)-3-[4-(4-fluorophenyl)-1-methyl-1H-pyrazol-5-yl]acrylic acid (159 mg, 78%) as colorless crystals.

reactant | Sodium hydride | 60 mg | [H-].[Na+]
reactant | 4-(4-fluorophenyl)-1-methyl-1H-pyrazole-5-carbaldehyde | 168 mg | FC1=CC=C(C=C1)C=1C=NN(C1C=O)C | C11H9FN2O
reactant | ethyl diethylphosphonoacetate | 400 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (2E)-3-[4-(4-fluorophenyl)-1-methyl-1H-pyrazol-5-yl]acrylic acid | 159 mg, 78% | FC1=CC=C(C=C1)C=1C=NN(C1/C=C/C(=O)O)C | C13H11FN2O2
